US04672068
434 mg (1 mM) of 4-(3-nitrophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid monocinnamyl ester, 226 mg (1.1 mM) of dicyclohexylcarbodiimide, 122 mg (1 mM) of 4-dimethylaminopyridine and 127 mg (1.2 mM) of 2-ethylthioethanol were dissolved in 10 ml of dichloroethane, and refluxed for 2 hours. After the reaction mixture was chilled, insoluble matters were filtered off. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to obtain 511 mg of cinnamyl 2-ethylthioethyl 4-(3-nitrophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate (yield 98%).

reactant | 4-(3-nitrophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid monocinnamyl ester | 1 mM, 434 mg | C(C=CC1=CC=CC=C1)OC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)O)C)C | C24H22N2O6
reactant | dicyclohexylcarbodiimide | 1.1 mM, 226 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2-ethylthioethanol | 1.2 mM, 127 mg | C(C)SCCO | C4H10OS
catalyst | 4-dimethylaminopyridine | 1 mM, 122 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
product | cinnamyl 2-ethylthioethyl 4-(3-nitrophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | 511 mg, yield 98% | [N+](=O)([O-])C=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)OCCSCC)C)C)C(=O)OCC=CC1=CC=CC=C1 | C28H30N2O6S
